US04282365
Methyl 6,11-dihydro-11-aminodibenz[b,e]oxepin-2-carboxylate hydrochloride
Add 600 mg. of methyl 6,11-dihydro-11-formamidodibenz[b,e]oxepin-2-carboxylate to a mixture of 20 ml. of dioxane and 24 ml. of 10% hydrochloric acid. Stir and heat the mixture at 40° C. for 18 hours. Strip to dryness and triturate the residue in tetrahydrofuran. Separate the solids by filtration. Dissolve the solids in water and basify with aqueous sodium hydroxide. Extract into ether, dry over anhydrous sodium sulfate and filter. Bubble gaseous hydrogen chloride through the solution for 15 minutes and separate the solids. Triturate in tetrahydrofuran and filter to obtain the title product (m.p. 224° C. dec.).

reactant | methyl 6,11-dihydro-11-formamidodibenz[b,e]oxepin-2-carboxylate | C(=O)NC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | C17H15NO4
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Methyl 6,11-dihydro-11-aminodibenz[b,e]oxepin-2-carboxylate hydrochloride | Cl.NC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)C(=O)OC | InChI=1S/C16H15NO3.ClH/c1-19-16(18)10-6-7-14-13(8-10)15(17)12-5-3-2-4-11(12)9-20-14;/h2-8,15H,9,17H2,1H3;1H
